US07285564B2
Step A—Preparation of 3-(3-Bromopropoxy)propionic Acid
To a flask was added 3-bromopropanol (25 mL, 0.28 mol) and β-propiolactone (5.0 mL, 0.07 mol) and the resulting mixture was heated to 80° C. for 14 h. The reaction mixture was then cooled to room temperature and the excess 3-bromopropanol was removed under reduced pressure. The crude product was dissolved in dichloromethane (300 mL) and extracted with 1 N sodium hydroxide (300 mL). The aqueous layer was then acidified to pH 2 and extracted with dichloromethane (300 mL). The organic layer was then washed with water (200 mL), brine (200 mL), dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure to give 9.4 g of the title intermediate, which was used without further purification (64% yield).

reactant | 3-bromopropanol | 0.28 mol, 25 mL | BrCCCO | C3H7BrO
reactant | β-propiolactone | 0.07 mol, 5.0 mL | C1(CCO1)=O | C3H4O2
product | 3-(3-Bromopropoxy)propionic Acid | 9.4 g, 64% yield | BrCCCOCCC(=O)O | C6H11BrO3
